US04474776
Preparation of O-Ethyl O-(2-Anthryl) S-Propyl Phosphorothioate
2-Anthrol (3.0 grams; 0.015 mole), triethylamine (2.1 ml) and toluene (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture was cooled to about 0° C. and O-ethyl S-propyl phosphorochloridothioate (3.01 grams; 0.015 mole) dissolved in toluene (38 ml) was added with stirring over a period of about 1/2 hour. After the addition was completed stirring was continued at room temperature overnight. After this time the reaction mixture was filtered to remove triethylamine hydrochloride and the filtrate stripped of solvent leaving solid residue. This residue was subjected to flash chromatography using ethyl acetate as the eluant to yield the desired product O-ethyl O-(2-anthryl) S-propyl phosphorothioate as a light tan solid melting at 79° to 83° C.

reactant | 2-Anthrol | 0.015 mole, 3.0 grams | C1=C(C=CC2=CC3=CC=CC=C3C=C12)O | C14H10O
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | O-ethyl S-propyl phosphorochloridothioate | 0.015 mole, 3.01 grams | P(OCC)(SCCC)(Cl)=O | C5H12ClO2PS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | O-ethyl O-(2-anthryl) S-propyl phosphorothioate | P(OCC)(OC1=CC2=CC3=CC=CC=C3C=C2C=C1)(SCCC)=O | C19H21O3PS
